US08633173B2
[3-(4-Methyl-piperazin-1-yl)-phenyl]-[8-(4-trifluoromethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-amine was prepared from 8-(4-trifluoromethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine (75.0 mg, 0.270 mmol) and 1-(3-bromo-phenyl)-4-methyl-piperazine (80.0 mg, 0.314 mmol) with 2,2′-bis-dicyclohexylphosphanyl-biphenyl (30.0 mg, 0.0549 mmol) as the ligand in a manner analogous to Step 2d and was isolated as a yellow solid (0.043 g, 35%). MP=234-236° C. 1H NMR (400 MHz, CDCl3, δ, ppm): 8.46 (d, J=7.0 Hz, 1H), 8.15 (d, J=7.7 Hz, 2H), 7.76 (d, J=8.2 Hz, 2H), 7.62 (d, J=7.2 Hz, 1H), 7.48 (s, 1H), 7.25-7.19 (m, 1H), 7.02-6.97 (m, 1H), 6.92 (d, J=7.3 Hz, 1H), 6.83 (s, 1H), 6.59 (d, J=7.8 Hz, 1H), 3.30-3.25 (m, 4H), 2.62-2.57 (m, 4H), 2.37 (s, 3H). MS=435 (MH)+.

reactant | 8-(4-trifluoromethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | 0.270 mmol, 75.0 mg | FC(C1=CC=C(C=C1)C=1C=2N(C=CC1)N=C(N2)N)(F)F | C13H9F3N4
reactant | 1-(3-bromo-phenyl)-4-methyl-piperazine | 0.314 mmol, 80.0 mg | BrC=1C=C(C=CC1)N1CCN(CC1)C | C11H15BrN2
reactant | 2,2′-bis-dicyclohexylphosphanyl-biphenyl | 0.0549 mmol, 30.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)P(C1CCCCC1)C1CCCCC1)C1CCCCC1 | C36H52P2
product | [3-(4-Methyl-piperazin-1-yl)-phenyl]-[8-(4-trifluoromethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-amine | CN1CCN(CC1)C=1C=C(C=CC1)NC1=NN2C(C(=CC=C2)C2=CC=C(C=C2)C(F)(F)F)=N1 | C24H23F3N6
